US05013863
A mixture of 24.7 g of isopropanol and 17.2 g of triethylamine in 35 ml of diethylether is added drop by drop to 30 g of t-butyldichlorophosphine in 100 ml diethylether. The temperature is kept between 5 to 10°. The solid is filtered off and the filtrate evaporated. The crude oil is purified by distillation to yield t-butylphosphonous acid-isopropylester as an oil, b.p. 82°/2 kPa, n20D =1.4222.

reactant | isopropanol | 24.7 g | C(C)(C)O | C3H8O
reactant | triethylamine | 17.2 g | C(C)N(CC)CC | C6H15N
reactant | t-butyldichlorophosphine | 30 g | C(C)(C)(C)P(Cl)Cl | C4H9Cl2P
reactant | diethylether | 35 ml | C(C)OCC | C4H10O
reactant | diethylether | 100 ml | C(C)OCC | C4H10O
product | t-butylphosphonous acid-isopropylester | C(C)(C)OP(O)C(C)(C)C | C7H17O2P
